US08470820B2
Step 1: 2-(5-Amino-3-pyridin-2-yl-pyrazol-1-yl)-ethanol
A solution of 3-oxo-3-pyridin-2-yl-propionitrile (0.5 g, 3.4 mmol; CAS 54123-21-6) in EtOH (20 ml) was treated with 2-hydroxyethylhydrazine (0.7 ml, 10.3 mmol). The reaction mixture was refluxed overnight, then concentrated. After silica gel chromatography using a CH2Cl2/MeOH gradient, the product was obtained as viscous yellow oil (0.56 g, 80%).

reactant | 3-oxo-3-pyridin-2-yl-propionitrile | 3.4 mmol, 0.5 g | O=C(CC#N)C1=NC=CC=C1 | C8H6N2O
reactant | 2-hydroxyethylhydrazine | 10.3 mmol, 0.7 ml | OCCNN | C2H8N2O
solvent | EtOH | 20 ml | CCO | C2H6O
product | 2-(5-Amino-3-pyridin-2-yl-pyrazol-1-yl)-ethanol | 0.56 g, 80% | NC1=CC(=NN1CCO)C1=NC=CC=C1 | C10H12N4O
